US05166152
3-(8-fluoro-1,4-dihydro-6-morpholinomethyl-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanenitrile (2.8 g) is reacted with phenylisocyanate (0.8 g) in dimethylformamide (20 ml) in the presence of triethylamine (0.7 g) at 25°-30° C. for 30 min. The reaction mixture is diluted with ice water and acidified with citric acid to pH 3. The precipitate is filtered and dissolved in chloroform. The organic solution is washed with 2% citric acid solution and then with water until neutral. Evaporation to dryness in vacuo gives a residue which is crystallized from chloroform/ethanol to yield 1.9 g of 2-cyano-3-(8-fluoro-1,4-dihydro-6-morpholinomethyl-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide, m.p. 249°-253° C.

reactant | 3-(8-fluoro-1,4-dihydro-6-morpholinomethyl-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanenitrile | 2.8 g | FC=1C=C(C2=C(C1)C=1N(N=C(C1CO2)C(CC#N)=O)C2=CC=CC=C2)CN2CCOCC2 | C24H21FN4O3
reactant | phenylisocyanate | 0.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-cyano-3-(8-fluoro-1,4-dihydro-6-morpholinomethyl-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide | 1.9 g | C(#N)C(C(=O)NC1=CC=CC=C1)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(OC2)C(=CC(=C1)F)CN1CCOCC1 | C31H26FN5O4
